US08895039B2
1000 g of 1-hexadecanol (Lorol C 16 from Cognis) were initially charged in a stirrable pressure vessel with 10 g of a nickel catalyst (Ni-5249 P from Engelhard; Ni content=63% by weight) and heated to 240° C. Subsequently, over a period of 12 h, hydrogen was added through a sparging tube at a pressure of 20 bar and the reaction gases were simultaneously discharged through a valve in the reactor lid. Thereafter, the product was cooled, discharged and filtered. This reaction product was fractionated in a distillation to give pure pentadecane and then deodorized with nitrogen. This gives a colorless, liquid and low-odor product.

reactant | 1-hexadecanol | 1000 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | hydrogen | [H][H] | H2
catalyst | nickel | 10 g | [Ni] | Ni
product | pentadecane | CCCCCCCCCCCCCCC | C15H32
